US06977262B2
Ethyl 4-(4-ethoxycarbonylphenyl)-4,7-dihydro-6-trifluoromethyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from 4-ethoxycarbonylbenzaldehyde, 3-aminopyrazole and ethyl trifluoroacetoacetate in the same manner as in Example 1.

reactant | 4-ethoxycarbonylbenzaldehyde | C(C)OC(=O)C1=CC=C(C=O)C=C1 | C10H10O3
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | ethyl trifluoroacetoacetate | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
product | Ethyl 4-(4-ethoxycarbonylphenyl)-4,7-dihydro-6-trifluoromethyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | C(C)OC(=O)C1=CC=C(C=C1)C1C=2C(NC(=C1C(=O)OCC)C(F)(F)F)=NNC2 | C19H18F3N3O4
